US06436929B1
A solution of 1-(4-amino-3′-fluoro[1,1′-biphenyl]-3-yl)ethanone (3 g, 13 mmol) in anhydrous methanol (60 mL) was then treated at room temperature under nitrogen with sodium borohydride in a portion wise manner. After addition, the reaction mixture was stirred for 4 hours, treated with a saturated solution of aqueous ammonium sulfate (50 mL) and ethyl acetate (100 mL). The organic layer was separated, dried (MgSO4), and evaporated in vacuo. The residue was purified on a silica gel chromatography (hexane:ethyl acetate/3:1) to yield 1-(4-amino-3′-fluoro[1,1′-biphenyl]-3-yl)ethanol as a white solid (2 g, 67%): mp 136-137° C.

reactant | 1-(4-amino-3′-fluoro[1,1′-biphenyl]-3-yl)ethanone | 13 mmol, 3 g | NC1=C(C=C(C=C1)C1=CC(=CC=C1)F)C(C)=O | C14H12FNO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ammonium sulfate | 50 mL | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 60 mL | CO | CH4O
product | 1-(4-amino-3′-fluoro[1,1′-biphenyl]-3-yl)ethanol | 2 g, 67% | NC1=C(C=C(C=C1)C1=CC(=CC=C1)F)C(C)O | C14H14FNO
